US04652553
6-(Pregn-5-en-20-ol-3β-yloxy)hexyl 1-thio-β-D-mannopyranoside
Sodium borohydride (60 mg) was added to a solution of 6-(pregn-5-en-20-one-3β-yloxy)hexyl 1-thio-β-D-mannopyranoside (250 mg) in absolute ethanol (7 ml). After stirring at room temperature for 4 hours, the solution was cooled and glacial acetic acid (10 ml) was slowly added. The solution was added to chloroform (100 ml) and successively washed with water (3×), 1N sodium bicarbonate (2×), and water (1×) and dried over anhydrous sodium sulfate. The solvent was removed by rotoevaporation to give the product as a fine white solid. The 200 MHz NMR spectrum of the peracetylated derivative was in accord with the desired structure. TLC data and Rf values are given in the above Table.

reactant | Sodium borohydride | 60 mg | [BH4-].[Na+]
reactant | 6-(pregn-5-en-20-one-3β-yloxy)hexyl 1-thio-β-D-mannopyranoside | 250 mg | S([C@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C33H54O7S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 6-(Pregn-5-en-20-ol-3β-yloxy)hexyl 1-thio-β-D-mannopyranoside | S([C@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C33H56O7S
